US07214802B2
A solution of N-(3-amino-5-tert-butyl-2-methoxy-phenyl)-methane-sulfonamide (81 mg, 0.261 mmol) in THF (4 mL) was stirred in a bath cooled to −78° C., and n-BuLi (0.22 mL, 0.548 mmol) was added slowly. The cold bath was removed, and the reaction was allowed to stir for 30 min. LHMDS (0.261 mmol) was then added slowly. The suspension was transferred dropwise to a stirring solution of compound 4-methyl-3-[4-(3-methyl-3H-imidazol-4-yl)-pyrazol-1-yl]-benzoic acid ethyl ester (81 mg, 0.261 mmol) in THF at 0° C. After 30 min cole MeOH was added and the mixture was partitioned between saturated NH4Cl and EtOAc, then extracted with EtOAc (3×). The organic combined extracts were washed with brine, dried over Na2SO4, filtered, and concentrated, and chromatographed (1% MeOH (with 5% NH4OH)/CH2Cl2 to 5% MeOH (with 5% NH4H)/CH2Cl2) to afford N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-3-[4-(3-methyl-3H-imidazol-4-yl)-pyrazol-1-yl]-benzamide (47 mg, 33%) as an orange foam: ESI MS m/z=537 [C27H32N6O4S+H]+.

reactant | N-(3-amino-5-tert-butyl-2-methoxy-phenyl)-methane-sulfonamide | 0.261 mmol, 81 mg | NC=1C(=C(C=C(C1)C(C)(C)C)NS(=O)(=O)C)OC | C12H20N2O3S
reactant | n-BuLi | 0.548 mmol, 0.22 mL | [Li]CCCC
reactant | LHMDS | 0.261 mmol | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 4-methyl-3-[4-(3-methyl-3H-imidazol-4-yl)-pyrazol-1-yl]-benzoic acid ethyl ester | 0.261 mmol, 81 mg | C(C)OC(C1=CC(=C(C=C1)C)N1N=CC(=C1)C=1N(C=NC1)C)=O | C17H18N4O2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-3-[4-(3-methyl-3H-imidazol-4-yl)-pyrazol-1-yl]-benzamide | 47 mg, 33% | C(C)(C)(C)C=1C=C(C(=C(C1)NC(C1=CC(=C(C=C1)C)N1N=CC(=C1)C=1N(C=NC1)C)=O)OC)NS(=O)(=O)C | C27H32N6O4S
